US06156700
Preparation of 6-Fluoro-3-methyl-5-nitro-1,2-benzisoxazole
A mixture of 6-fluoro-3-methyl-1,2-benzisoxazole (23.5 g, 0.156 mol) in concentrated sulfuric acid is cooled with an ice-bath, treated dropwise with 90% nitric acid (8.50 mL) while maintaining the reaction mixture temperature below 15° C., stirred for one hour at ice-bath temperature, treated with additional 90% nitric acid (5.80 mL), warmed to and stirred at room temperature overnight, and poured onto ice. The resultant aqueous mixture is filtered to obtain a solid. The solid is air-dried and dissolved in methylene chloride. The resultant organic solution is dried over anhydrous magnesium sulfate, diluted with hexanes, and filtered to give the title product as a purple solid which is identified by 2H NMR spectral analysis.

reactant | 6-fluoro-3-methyl-1,2-benzisoxazole | 0.156 mol, 23.5 g | FC1=CC2=C(C(=NO2)C)C=C1 | C8H6FNO
reactant | nitric acid | 8.50 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 5.80 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-Fluoro-3-methyl-5-nitro-1,2-benzisoxazole | FC1=CC2=C(C(=NO2)C)C=C1[N+](=O)[O-] | C8H5FN2O3
